US07745641B2
4-Formyl-3-methoxymethoxybenzoic acid (2.57 g, 12.2 mmol) was dissolved in DMF (50 mL), and the solution was added with EDCI (4.68 g, 24.4 mmol), HOBT monohydrate (1.65 g, 12.2 mmol) and cumylamine (4.03 mL, 24.4 mmol), followed by stirring at room temperature for 4 hours. The reaction mixture was added with water (10 mL) and 1 mol/L hydrochloric acid (10 mL) and stirred at room temperature for 1 hour. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=95/5 to 80/20 to 70/30) to obtain 4-formyl-3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide (3.12 g, yield 78%).

reactant | 4-Formyl-3-methoxymethoxybenzoic acid | 12.2 mmol, 2.57 g | C(=O)C1=C(C=C(C(=O)O)C=C1)OCOC | C10H10O5
reactant | EDCI | 24.4 mmol, 4.68 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 12.2 mmol, 1.65 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 24.4 mmol, 4.03 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-formyl-3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide | 3.12 g, yield 78% | C(=O)C1=C(C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=C1)OCOC | C19H21NO4
